US06521630B1
Methanesulfonic acid 3-(2,2,2-trifluoroacetylamino)-propyl ester (4.51 g, 18.10 mmol), 4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride (4.20 g, 18.25 mmol) and triethylamine (5.6 mL, 40.2 mmol) in ethanol (100 mL) were refluxed for 18 hours. The mixture was concentrated, redissolved in ethyl acetate and washed with saturated sodium bicarbonate and brine, dried over magnesium sulfate and concentrated on to silica gel. Flash chromatography using first an ethyl acetate/hexanes gradient followed by 3% methanol/ethyl acetate gave N-{3-[4-(4-chloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-propyl}-2,2,2-trifluoro-acetamide (2.82 g, 45%) as a white solid. Mp. 105-107° C.; NMR CDCl3 δ 9.58 (br s, 1H), 7.27-7.24 (m, 4H), 6.01-5.98 (m, 1H), 3.49 (g, J=5.3 Hz, 2H), 3.20-3.17 (m, 2H), 2.77 (t, J=5.7 Hz, 2H), 2.73-2.69 (m, 2H), 2.55-2.51 (m, 2H), 1.80 (p, J=3.6 Hz, 2H); 13C NMR CDCl3 δ 138.80, 134.41, 133.15, 128.52, 126.22, 120.99, 57.72, 52.80, 50.15, 40.96, 27.61, 23.23; IR (KBr) 3300, 3099, 2981, 2953, 2925, 2907, 2810, 2758, 2734, 1695, 1558, 1494, 1469, 1444, 1352, 1184, 1137, 1118, 1097,801,722,692.

reactant | Methanesulfonic acid 3-(2,2,2-trifluoroacetylamino)-propyl ester | 18.10 mmol, 4.51 g | FC(C(=O)NCCCOS(=O)(=O)C)(F)F | C6H10F3NO4S
reactant | 4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 18.25 mmol, 4.20 g | Cl.ClC1=CC=C(C=C1)C=1CCNCC1
reactant | triethylamine | 40.2 mmol, 5.6 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-{3-[4-(4-chloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-propyl}-2,2,2-trifluoro-acetamide | 2.82 g, 45% | ClC1=CC=C(C=C1)C=1CCN(CC1)CCCNC(C(F)(F)F)=O | C16H18ClF3N2O
